US06777575B2
A mixture of anhydrous sodium thiomethoxide (0.39 g, 0.00525M), 2-chloro-4-trifluoromethylbenzoic acid sodium salt (1.23 g, 0.005M) and anhydrous N-methylpyrrolidinone (10 ml, containing less than 0.01% of water) was heated at 90° C. for 2 hours. The mixture was cooled to 20° C., acidified and extracted (t-butyl methyl ether). The extract was washed (water) and evaporated to give 2-methylthio-4-trifluoromethylbenzoic acid (1.18 g, 100% yield). 1H-nmr 2.40(s,3H). 7.30(1H), 7.38(1H), 8.07(1H). The purity of the product was greater than 95%.

reactant | sodium thiomethoxide | 0.00525M, 0.39 g | C[S-].[Na+]
reactant | 2-chloro-4-trifluoromethylbenzoic acid sodium salt | 0.005M, 1.23 g | [Na+].ClC1=C(C(=O)[O-])C=CC(=C1)C(F)(F)F
solvent | N-methylpyrrolidinone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 2-methylthio-4-trifluoromethylbenzoic acid | 1.18 g, 100% yield | CSC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C9H7F3O2S
